US04147805
Reaction of 1-chloro-3-[4-(1-methylethylthio)phenoxy]propane with 2,2-dimethylhex-1-ylamine according to the procedure of Example 2(b) and conversion of the base to the hydrochloride provides N-[3-[4-[(1-methylethyl)thio]phenoxy]propyl]-2,2-dimethylhex-1-ylamine hydrochloride.

reactant | 1-chloro-3-[4-(1-methylethylthio)phenoxy]propane | ClCCCOC1=CC=C(C=C1)SC(C)C | C12H17ClOS
reactant | 2,2-dimethylhex-1-ylamine | CC(CN)(CCCC)C | C8H19N
reactant | hydrochloride | Cl | ClH
product | N-[3-[4-[(1-methylethyl)thio]phenoxy]propyl]-2,2-dimethylhex-1-ylamine hydrochloride | Cl.CC(C)SC1=CC=C(OCCCNCC(CCCC)(C)C)C=C1 | InChI=1S/C20H35NOS.ClH/c1-6-7-13-20(4,5)16-21-14-8-15-22-18-9-11-19(12-10-18)23-17(2)3;/h9-12,17,21H,6-8,13-16H2,1-5H3;1H
